US09289419B2
Synthesis of (S)-methyl 4-amino-3-hydroxybutanoate hydrochloride
Thionyl chloride (3 mL) was added to a cold (0° C.) stirred solution of (S)-4-amino-3-hydroxybutanoic acid (300 mg, 2.9 mmol) in MeOH (3 mL) and continued stirring at 62° C. for 12 h. The reaction mixture was concentrated under reduced pressure to afford 300 mg of the title compound.

reactant | Thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-4-amino-3-hydroxybutanoic acid | 2.9 mmol, 300 mg | NC[C@H](CC(=O)O)O | C4H9NO3
reactant | MeOH | 3 mL | CO | CH4O
product | (S)-methyl 4-amino-3-hydroxybutanoate hydrochloride | 300 mg | Cl.NC[C@H](CC(=O)OC)O | InChI=1S/C5H11NO3.ClH/c1-9-5(8)2-4(7)3-6;/h4,7H,2-3,6H2,1H3;1H/t4-;/m0./s1
